US08106215B2
6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-(1S,2S,5R)-{3-[2-methyl-5-(3-trifluoromethyl-phenyl)-thiazole-4-carbonyl]-3-aza-bicyclo[3.3.0]oct-2-ylmethyl}-amide
prepared by reaction of 6-methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-[(1S,2S,5R)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide with 2-methyl-5-(3-trifluoromethyl-phenyl)-thiazole-4-carboxylic acid.

reactant | 6-methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-[(1S,2S,5R)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide | [C@H]12[C@H](NC[C@@H]2CCC1)CNC(=O)C1=C(N=C2SC=CN21)C | C15H20N4OS
reactant | 2-methyl-5-(3-trifluoromethyl-phenyl)-thiazole-4-carboxylic acid | CC=1SC(=C(N1)C(=O)O)C1=CC(=CC=C1)C(F)(F)F | C12H8F3NO2S
product | 6-Methyl-imidazo[2,1-b]thiazole-5-carboxylic acid-(1S,2S,5R)-{3-[2-methyl-5-(3-trifluoromethyl-phenyl)-thiazole-4-carbonyl]-3-aza-bicyclo[3.3.0]oct-2-ylmethyl}-amide | CC=1SC(=C(N1)C(=O)N1[C@@H]([C@H]2CCC[C@H]2C1)CNC(=O)C1=C(N=C2SC=CN21)C)C2=CC(=CC=C2)C(F)(F)F | C27H26F3N5O2S2
